Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
pain killers / lidocaine
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
: ___ with hx of HTN on enalapril who is presenting after being 
found down
outside of his apartment complex. He was found by apartment 
staff on the
ground outside of his apartment complex, unknown downtime, with 
head
laceration and confusion. He was next to his vehicle that was 
perfectly parked
in a parking spot but had obvious front end damage. He was 
alert, but confused
and had no recollection of the event. He was endorsing some pain 
with
inspiration and pain in his head, otherwise was able to move all 
extremities and
not endorsing other symptoms including fevers, chills, cough, 
URI symptoms,
vomiting or diarrhea. He did also endorse nausea on arrival
 
Past Medical History:
PMH: HTN

PSH: cataract surgery

 
Social History:
SH: occ etoh only, denies other drug usage 
 
Physical Exam:
Admission:

Constitutional: Comfortable
HEENT: occipital abrasion
Chest: Clear to auscultation, bilateral breath sounds, no 
crepitus, pain on palpation R chest
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema
Neuro: awake, alert, confused, GCS 14, non focal exam

Discharge

Constitutional: Comfortable
HEENT: occipital abrasion with dressing c/d/i
Chest: CTAB
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema
Neuro: grossly normal
 
Pertinent Results:
Admission
========

___ 09:11AM BLOOD WBC-7.4 RBC-4.72 Hgb-14.5 Hct-43.3 MCV-92 
MCH-30.7 MCHC-33.5 RDW-13.4 RDWSD-45.6 Plt ___
___ 09:11AM BLOOD Neuts-55.7 ___ Monos-8.7 Eos-5.0 
Baso-0.7 Im ___ AbsNeut-4.11 AbsLymp-2.10 AbsMono-0.64 
AbsEos-0.37 AbsBaso-0.05
___ 09:11AM BLOOD ___ PTT-25.9 ___
___ 09:11AM BLOOD Glucose-112* UreaN-15 Creat-0.8 Na-138 
K-4.6 Cl-100 HCO3-28 AnGap-10
___ 09:11AM BLOOD ALT-29 AST-39 LD(LDH)-305* AlkPhos-46 
TotBili-0.5
___ 09:11AM BLOOD Lipase-42
___ 09:11AM BLOOD cTropnT-<0.01
___ 09:11AM BLOOD Albumin-4.2 Phos-3.0 Mg-2.2
___ 09:11AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:17AM BLOOD ___ pO2-36* pCO2-50* pH-7.38 
calTCO2-31* Base XS-2 Intubat-NOT INTUBA
___ 09:17AM BLOOD Glucose-117* Lactate-1.8 Na-139 K-4.1 
Cl-97 calHCO3-29
___ 09:17AM BLOOD freeCa-1.21

Imaging
======

___ CT HEAD W/O CONTRAST
1. No Acute large territorial infarction or intracranial 
hemorrhage.
2. A 1.4 cm posterior fossa extra-axial mass with peripheral 
calcifications,
likely a meningioma.

___ CT C-SPINE W/O CONTRAST
1.  No acute fracture traumatic malalignment.
2.  Small apical right pneumothorax.
3.  7 mm right upper lobe nodule, may be related to underlying 
scarring,
however recommend follow up chest CT per the ___ criteria 
(see below)
or comparison to prior imaging if available.
 

___ #3 (PORT CHEST)
The lungs are clear.  There is no consolidation.  No obvious 
effusion or
pneumothorax on this supine film.  The cardiomediastinal 
silhouette is within
normal limits.  No displaced fractures.

___ SERIES COMPLETE
Bilateral less than 40% carotid stenosis.

___ Report
Good image quality. Mild symmetric left ventricular hypertrophy 
with normal cavity
sizes and regional/global biventricular systolic function. Mild 
aortic stenosis.

 
Brief Hospital Course:
___ year old man with past medical history notable for 
hypertension who presented after a fall outside car. He was 
found to have a small right apical pneumothorax and a posterior 
head abrasion his repeat CXR was notable for stability of small 
pneumothorax. He underwent a syncopal evaluation. His 
echocardiography showed a normal cardiac function. The final 
reading of the carotid series is still pending at the moment of 
discharge and results will be follow up with his PCP. Patient 
was seen by ___ who did not identify acute needs. Patient was 
discharge home.

Transitional Issues:
-Please consider further syncope workup
-Imaging of his brain was notable for a 1.4 cm posterior fossa 
mass with peripheral calcifications, likely a meningioma, for 
which he will have outpatient follow-up. 
 
Medications on Admission:
___: enalapril 5mg qd
 
Discharge Medications:
1.  Enalapril Maleate 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Posterior head abrasion
-Small right apical pneumothorax
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital after you were found on the 
ground next to a car. In the hospital, we found that you had a 
posterior head abrasion and small accumulation of air in your 
lungs. Neither of these injuries required surgical management. 
While you were in the hospital we did an imaging of your heart 
and the arteries of your neck to rule the cause of your loss of 
consciousness. These studies were both normal. You need to 
follow up with you primary care doctor to decide if further 
studies are necessary. Please avoid to drive until you are 
cleared by your primary care doctor. 

Please call your doctor or return to the ED if you have any 
symptoms that concern you such as headache, loss of 
consciousness, shortness of breath, chest pain or any symptoms 
that concern you.

Your ___ team
 
Followup Instructions:
___